US08071592B2
1-(2-{(3S,4R)-4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-3-hydroxy-1-piperidinyl}ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride
1-{2-[(3S,4R)-4-Amino-3-hydroxy-1-piperidinyl]ethyl}-7-fluoro-1,5-naphthyridin-2(1H)-one dihydrochloride (247 mg, 0.6513 mmol) was stirred in 9:1 v:v chloroform:MeOH (10 ml) at rt under argon and triethylamine (318 μL, 3.5 eq.) was added. The mixture was stirred at rt for 10 mins., then 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde (108 mg, for a synthesis see WO2004058144, Example 2(c) or WO03/087098, Example 19(d)) was added and the mixture was stirred at rt for 2 hours before being treated with sodium triacetoxyborohydride (414 mg) added in one portion. The mixture was then stirred at rt overnight. Saturated aqueous sodium hydrogen cabonate (5 ml) was then added and the organic phase was diluted with DCM to bring the total volume to ca. 100 ml. The organic phase was separated using a hydrophobic frit and the aqueous phase was extracted with DCM (2×50 ml). The combined DCM extracts were evaporated under reduced pressure and purified by MDAP to give the free base of the title compound as a white foam (130 mg).

reactant | 1-{2-[(3S,4R)-4-Amino-3-hydroxy-1-piperidinyl]ethyl}-7-fluoro-1,5-naphthyridin-2(1H)-one dihydrochloride | 0.6513 mmol, 247 mg | Cl.Cl.N[C@H]1[C@H](CN(CC1)CCN1C(C=CC2=NC=C(C=C12)F)=O)O
reactant | triethylamine | 318 μL, 3.5 eq. | C(C)N(CC)CC | C6H15N
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | sodium triacetoxyborohydride | 414 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen cabonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | 10 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-{(3S,4R)-4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-3-hydroxy-1-piperidinyl}ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride | 130 mg | Cl.O1CCOC=2C=NC(=CC21)CN[C@H]2[C@H](CN(CC2)CCN2C(C=CC1=NC=C(C=C21)F)=O)O | InChI=1S/C23H26FN5O4.ClH/c24-15-9-19-17(26-11-15)1-2-23(31)29(19)6-5-28-4-3-18(20(30)14-28)27-12-16-10-21-22(13-25-16)33-8-7-32-21;/h1-2,9-11,13,18,20,27,30H,3-8,12,14H2;1H/t18-,20+;/m1./s1
